US09278931B2
B) N-(4-{trans-2-[(2-phenylpiperidin-4-yl)amino]cyclopropyl}phenyl)-3-(trifluoromethyl)benzamide dihydrochloride
tert-Butyl 2-phenyl-4-{[trans-2-(4-{[3-(trifluoromethyl)benzoyl]amino}phenyl)cyclopropyl]amino}-piperidine-1-carboxylate (62 mg) was dissolved in THF (0.5 mL), and the mixture was ice-cooled to 0° C. 4N Hydrochloric acid/cyclopentyl methyl ether solution (5.0 mL) was added, and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure. The residue was recrystallized from methanol/diisopropyl ether to give the title compound (24 mg).

reactant | tert-Butyl 2-phenyl-4-{[trans-2-(4-{[3-(trifluoromethyl)benzoyl]amino}phenyl)cyclopropyl]amino}-piperidine-1-carboxylate | 62 mg | C1(=CC=CC=C1)C1N(CCC(C1)N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)OC(C)(C)C | C33H36F3N3O3
reactant | Hydrochloric acid cyclopentyl methyl ether | 4N, 5.0 mL | Cl.COC1CCCC1
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-(4-{trans-2-[(2-phenylpiperidin-4-yl)amino]cyclopropyl}phenyl)-3-(trifluoromethyl)benzamide dihydrochloride | 24 mg | Cl.Cl.C1(=CC=CC=C1)C1NCCC(C1)N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | InChI=1S/C28H28F3N3O.2ClH/c29-28(30,31)21-8-4-7-20(15-21)27(35)34-22-11-9-18(10-12-22)24-17-26(24)33-23-13-14-32-25(16-23)19-5-2-1-3-6-19;;/h1-12,15,23-26,32-33H,13-14,16-17H2,(H,34,35);2*1H/t23?,24-,25?,26+;;/m0../s1
